US05849759
To a solution of 2-isopropyl-6-hydroxy-5-nitrobenzimidazole and the HBr addition product (15 g), N-tert-butoxycarbonyl-4-hydroxypiperidine (17.7 g), PPh3 (23.1 g), and THF (150 mL) at room temperature was added DEAD (14 mL). After 4 hours, the solvent was removed in vacuo and the product recovered from the crude using chromatography (3% methanol/methylene chloride) to yield 2-isopropyl-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-6-nitrobenzimidazole (16.5 g).

reactant | 2-isopropyl-6-hydroxy-5-nitrobenzimidazole | C(C)(C)C=1NC2=C(N1)C=C(C(=C2)[N+](=O)[O-])O | C10H11N3O3
reactant | HBr | Br | BrH
reactant | N-tert-butoxycarbonyl-4-hydroxypiperidine | 17.7 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | PPh3 | 23.1 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DEAD | 14 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-isopropyl-5-(N-(tert-butoxycarbonyl)piperidin-4-yloxy)-6-nitrobenzimidazole | 16.5 g | C(C)(C)C=1NC2=C(N1)C=C(C(=C2)OC2CCN(CC2)C(=O)OC(C)(C)C)[N+](=O)[O-] | C20H28N4O5
